US04203909
N-Cyano-N'-(2-butyn-1-yl)-N"-{2-[(5-dimethylaminomethyl-2-furyl)methylthio]ethyl}guanidine
2-[(5-Dimethylaminomethyl-2-furyl)methylthio]ethylamine is reacted in a non-reactive solvent with about an equimolar amount of N-(2-butyn-1-yl)-N'-cyano-S-methylisothiourea [prepared according to the procedure described in U.S. Pat. No. 4,112,234, the complete disclosure of which is incorporated herein by reference] and, after workup and chromatography, the title product is produced.

reactant | 2-[(5-Dimethylaminomethyl-2-furyl)methylthio]ethylamine | CN(C)CC1=CC=C(O1)CSCCN | C10H18N2OS
reactant | N-(2-butyn-1-yl)-N'-cyano-S-methylisothiourea | C(C#CC)NC(SC)=NC#N | C7H9N3S
product | N-Cyano-N'-(2-butyn-1-yl)-N"-{2-[(5-dimethylaminomethyl-2-furyl)methylthio]ethyl}guanidine | C(#N)NC(=NCCSCC=1OC(=CC1)CN(C)C)NCC#CC | C16H23N5OS
